US06964981B2
(3RS, 4RS) 4-[(N,N-Dibenzylamino)-methyl]-3-phenyl-dihydrofuran-2-one
(3RS, 4RS) 4-Aminomethyl-3-phenyl-dihydrofuran-2-one (2.15 g, 0.011 mol) was added to potassium carbonate (15.5 g), benzyl bromide (6.69 ml) and dimethylformamide (10 ml) and stirred for 3 hours at 50° C. dimethylformamide was removed in vacuo and the reaction was dispersed between ethyl acetate (40 ml) and water (60 ml), the aqueous phase was washed with ethyl acetate (2×30 ml) and the organic layers were combined and washed with brine solution (100 ml) and dried over MgSO4. The solvent was removed in vacuo and purified by flash column chromatography on silica gel and eluting in increasing concentrations of ethyl aceate in hexane (5-50%) to give the title compound (1.15 g, 46%).

reactant | 4-Aminomethyl-3-phenyl-dihydrofuran-2-one | 0.011 mol, 2.15 g | NCC1C(C(OC1)=O)C1=CC=CC=C1 | C11H13NO2
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 6.69 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[(N,N-Dibenzylamino)-methyl]-3-phenyl-dihydrofuran-2-one | 1.15 g, 46% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC1C(C(OC1)=O)C1=CC=CC=C1 | C25H25NO2
